US05710319
A solution of 4-bromo-2-fluorobenzylamine (20.4 g, 0.10 mol) in toluene (300 ml) is saturated with gaseous hydrochloric acid at 25° C. The resulting suspension of the 4-bromo-2-fluorobenzylamine hydrochloride is heated at 100° C. Phosgene is passed in at this temperature. Stirring of the solution, which has eventually become clear, is continued at 100° C. for 1 hour, and the mixture is then refluxed to remove the gases phosgene and hydrogen chloride. The batch is worked up by distillation. 21.2 g of 4-bromo-2-fluorobenzyl isocyanate (boiling point 109° C. at 4 mbar) are obtained. Yield: 92.1% of theory.

reactant | 4-bromo-2-fluorobenzylamine | 0.10 mol, 20.4 g | BrC1=CC(=C(CN)C=C1)F | C7H7BrFN
reactant | hydrochloric acid | Cl | ClH
reactant | 4-bromo-2-fluorobenzylamine hydrochloride | Cl.BrC1=CC(=C(CN)C=C1)F
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-2-fluorobenzyl isocyanate | 21.2 g, Yield: 92.1% | BrC1=CC(=C(CN=C=O)C=C1)F | C8H5BrFNO
